US20010047094A1
2,2-Diethoxythioacetamide
To a stirred mixture of P2S5 (45 g) in THF (300 ml) at 23°, sodium carbonate (21.5 g) was added. At the mixture, vigorously stirred, 2,2-diethoxyacetamide (10 g) was added. After 24 h a 10% aqueous solution of Na3PO4 (200 ml), EA (300 ml) and CH (300 ml) were respectively added. The aqueous layer was washed with EA and united to the organic layer. This was washed with water until clarfication, dried and the solvent evaporated under reduce pressure. The crude residue was purified by flash chromatography (eluting with CH-EA 1:1) to give the title compound as a white solid (10 g).

reactant | P2S5 | 45 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | sodium carbonate | 21.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,2-diethoxyacetamide | 10 g | C(C)OC(C(=O)N)OCC | C6H13NO3
reactant | EA | 300 ml | CC(OCC)=O | C4H8O2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 2,2-Diethoxythioacetamide | 10 g | C(C)OC(C(=S)N)OCC | C6H13NO2S
